US07687624B2
4-(4-Nitro-2-methylphenyl)-3-oxomorpholine
1.05 g of a mixture of 2-chlorodioxene and 2,2-dichlorodioxane (molar ratio 1:1) are added to a solution of 1.10 g (7.24 mmol) of 2-methyl-4-nitroaniline in 20 ml of THF, and the mixture is heated to the boil. The solvent is distilled off, and the residue, a brown viscous liquid, is heated at 80° C. for 18 hours. After cooling, the residue is recrystallised from toluene/tert-butyl methyl ether: 1.50 g of 2-(2-chloroethoxy)-N-(2-methyl-4-nitrophenyl)acetamide as yellowish crystals, m.p. 113-114° C. 1H-NMR (d6-DMSO): δ=2.35 (s; 3H), 3.82 (m; 4H), 4.23 (s; 2H), 8.05 (d, J=8 Hz, 1H) 8.09 (dd, J=9 Hz, J=1 Hz, 1H), 8.16 (d, J=1 Hz, 1H), 9.33 (s, 1H).

reactant | 2,2-dichlorodioxane | ClC1(OCCOC1)Cl | C4H6Cl2O2
reactant | 2-methyl-4-nitroaniline | 7.24 mmol, 1.10 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(4-Nitro-2-methylphenyl)-3-oxomorpholine | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(COCC1)=O)C | C11H12N2O4
